*Ngspice script

.options savecurrents


*circuit description

*Independent sources
Va 6 3 5.23061068922
V9 3 0 0
Id 5 4 1.01940833644m


*dependent sources
Gb 4 7 (1,2) 7.25561262206m
Hc 2 5 V9 8.24424618872k

*Resistances
R1 6 1 1.01458812332k
R2 1 7 2.08463766973k
R3 1 2 3.01303489873k
R4 3 2 4.03070521773k
R5 2 4 3.06211563876k
R6 0 8 2.03687088929k
R7 8 5 1.00498418134k

*circuit analysis control

.control

op

echo "Operating point analysis"

echo  "op_TAB"
print all
echo  "op_END"


print all

quit

.endc
.end

